US09260408B2
[D] 6-[5-(1-Amino-cyclopropyl)-pyridin-3-yl]-1-methyl-3,4-dihydro-1H-quinolin-2-one
To solution of 1-(5-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)pyridin-3-yl)cyclopropanecarboxylic acid (0.551 g, 1.52 mmol) in toluene (20 mL) were added TEA (0.185 g, 1.83 mmol) and diphenylphosphoryl azide (0.419 g, 1.52 mmol) and then the reaction mixture was heated to reflux for 4 h. After cooling to 0° C., a 1 M solution of sodium trimethylsilanoate in THF (3.04 mL, 3.04 mmol) was added and the mixture was stirred for 45 min at room temperature. After quenching with 0.1 M aq. HCl (40 mL), the aqueous solution was washed with ether (2 times), then basified with 1 M aq. NaOH and then extracted with DCM (2×100 mL). The combined organics were washed with brine, dried over Na2SO4, filtered and evaporated to dryness to give the title compound (0.333 g, 71%) as a yellow foam. MS: 294.4 (M+H+).

reactant | 1-(5-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)pyridin-3-yl)cyclopropanecarboxylic acid | 1.52 mmol, 0.551 g | CN1C(CCC2=CC(=CC=C12)C=1C=C(C=NC1)C1(CC1)C(=O)O)=O | C19H18N2O3
reactant | diphenylphosphoryl azide | 1.52 mmol, 0.419 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | THF | 3.04 mmol, 3.04 mL | C1CCOC1 | C4H8O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 6-[5-(1-Amino-cyclopropyl)-pyridin-3-yl]-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.333 g, 71% | NC1(CC1)C=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C18H19N3O
